US04215220
To 400 ml of tetrahydrofuran 8.8 g (0.366 mol) of sodium hydride followed by 92 g (0.320 mol) of 1-[3-(3,4-dichloroanilino)-2-hydroxypropyl]imidazole are added with stirring at room temperature. The formation of hydrogen stops after 1 hour and the reaction mixture is heated and refluxed for 5 hours. After cooling, 44 g (0.273 mol) of 4-chlorobenzylchloride are added. The solution is again heated to boiling temperature and refluxed for 4 hours. After cooling, 10 ml of water are added dropwise under nitrogen and the crystal cake is concentrated at 50° C./12 Torr. The residue is dissolved in 1500 ml of toluene and the solution washed twice with 300 ml of water each, filtered and concentrated to one third of its original volume under reduced pressure. The crystallized product is filtered off, washed with 100 ml of toluene in portions and dried in vacuum at 50° C./12 Torr. The raw substance is recrystallized under filtration with charcoal in a mixture of 300 ml of ethanol and 100 ml of water, filtered off and dried in vacuum at 50° C./12 Torr to yield 55.3 g of 1-[2-(4-chlorobenzyloxy)-3-(3,4-dichloroanilino)-propyl]-imidazole, M.P. 102.5°-103° C.

reactant | tetrahydrofuran | 0.366 mol, 400 ml, 8.8 g | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-[3-(3,4-dichloroanilino)-2-hydroxypropyl]imidazole | 0.320 mol, 92 g | ClC=1C=C(NCC(CN2C=NC=C2)O)C=CC1Cl | C12H13Cl2N3O
reactant | hydrogen | [H][H] | H2
reactant | 4-chlorobenzylchloride | 0.273 mol, 44 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | water | 10 ml | O | H2O
product | 1-[2-(4-chlorobenzyloxy)-3-(3,4-dichloroanilino)-propyl]-imidazole | 55.3 g | ClC1=CC=C(COC(CN2C=NC=C2)CNC2=CC(=C(C=C2)Cl)Cl)C=C1 | C19H18Cl3N3O
